US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-chloro-2-butynyl)-2-(2-naphthylmethyl)piperazine (200 mg), 3-(aminomethyl)pyridine (47 mg), and triethylamine (0.08 ml) in acetonitrile (2 ml) was stirred under reflux for 3 hours and evaporated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (10 ml) using dichloromethane-methanol (30:1) as eluent. The obtained oil was dissolved in ethyl acetate and treated with a solution of,4N hydrogen chloride in ethyl acetate. The mixture was evaporated under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3-pyridylmethylamino)-2-butynyl]-2-(2-naphthylmethyl)piperazine trihydrochloride (60 mg) as a powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(4-chloro-2-butynyl)-2-(2-naphthylmethyl)piperazine | 200 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCCl)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | C28H23ClF6N2O
reactant | 3-(aminomethyl)pyridine | 47 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3-pyridylmethylamino)-2-butynyl]-2-(2-naphthylmethyl)piperazine trihydrochloride | 60 mg | Cl.Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCNCC=2C=NC=CC2)CC2=CC3=CC=CC=C3C=C2)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C34H30F6N4O.3ClH/c35-33(36,37)29-18-28(19-30(20-29)34(38,39)40)32(45)44-15-14-43(13-4-3-11-41-21-25-6-5-12-42-22-25)23-31(44)17-24-9-10-26-7-1-2-8-27(26)16-24;;;/h1-2,5-10,12,16,18-20,22,31,41H,11,13-15,17,21,23H2;3*1H/t31-;;;/m1.../s1
